US06248755B1
Step D: 4-(3-(3,4-Difluorobenzyl)-1-ethyl-(1H-pyrazol-5-yl))-1-benzyl-piperidine
The title compound was prepared from 1-(1-benzylpiperidin-4-yl)-4-(3,4-difluorophenyl)butane-1,3-dione and ethylhydrazine oxalate using a procedure similar to that described in Example 1, Step B. RF: 0.29 (2:1 EtOAc to hexanes with 1% (v/v) Et3N). It was the fast-eluting isomer on silica gel. 1H NMR (500 MHz, CDCl3): δ7.29˜7.33 (m, 4H), 7.23˜7.28 (m, 1H), 7.05˜7.14 (m, 2H), 6.97˜7.01 (m, 1H), 5.86 (s, 1H), 4.06 (q, 7.2 Hz, 2H), 3.84 (s, 2H), 3.55 (s, 2H), 2.97 (br d, 11.9 Hz, H), 2.64 (tt, 12.1 & 3.7 Hz, 1H), 2.12˜2.16 (m, 2H), 1.83 (br d, 13.1 Hz, 2H), 1.62˜1.71 (m, 2H), 1.35 (t, 7.2 Hz, 3H); ESI-MS 396.2 (M+H), HPLC A: 3.43 min., compared with 3.54 min. for its isomer.

reactant | 1-(1-benzylpiperidin-4-yl)-4-(3,4-difluorophenyl)butane-1,3-dione | C(C1=CC=CC=C1)N1CCC(CC1)C(CC(CC1=CC(=C(C=C1)F)F)=O)=O | C22H23F2NO2
reactant | ethylhydrazine oxalate | C(C(=O)O)(=O)O.C(C)NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et3N | CCN(CC)CC | C6H15N
product | 4-(3-(3,4-Difluorobenzyl)-1-ethyl-(1H-pyrazol-5-yl))-1-benzyl-piperidine | FC=1C=C(CC2=NN(C(=C2)C2CCN(CC2)CC2=CC=CC=C2)CC)C=CC1F | C24H27F2N3
